US07163936B2
To a solution of tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}pentanoate (3.5 g, 11.4 mmol) in methanol (35 ml) was added Pd—C (0.7 g) and the mixture was stirred under a hydrogen atomosphere for 3 hours. Catalyst was-removed by filtration and the solvent was removed in vacuo to give tert-butyl(4R)-4-aminopentanoate (2.1 g).

reactant | tert-butyl (4R)-4-{[(benzyloxy)carbonyl]amino}pentanoate | 11.4 mmol, 3.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)C | C17H25NO4
solvent | methanol | 35 ml | CO | CH4O
catalyst | Pd—C | 0.7 g | [Pd] | Pd
product | tert-butyl(4R)-4-aminopentanoate | 2.1 g | N[C@@H](CCC(=O)OC(C)(C)C)C | C9H19NO2
